US07563805B2
3-(tert-Butoxycarbonylamino)-4-methoxy-3-methylpyrrolidine (Derived from Fraction α)
To a solution of 1-benzyloxycarbonyl-3-(tert-butoxycarbonylamino) 4-methoxy-3-methylpyrrolidine (fraction α) (0.29 g, 0.8 mmol) in methanol (10 mL), 5% palladium-carbon catalyst (water content, 50%; 0.15 g) was added, and the suspension was stirred at room temperature for 16.5 hours in hydrogen atmosphere. The reaction mixture was filtered through celite, and the filtrate was concentrated under reduced pressure to obtain the title compound as a colorless oily product. This product was used in the subsequent reaction with no further purification.

reactant | 1-benzyloxycarbonyl-3-(tert-butoxycarbonylamino) 4-methoxy-3-methylpyrrolidine | 0.8 mmol, 0.29 g | C(C1=CC=CC=C1)OC(=O)N1CC(C(C1)OC)(C)NC(=O)OC(C)(C)C | C19H28N2O5
solvent | methanol | 10 mL | CO | CH4O
catalyst | palladium-carbon | 0.15 g | [C].[Pd]
solvent | hydrogen | [H][H] | H2
product | 3-(tert-Butoxycarbonylamino)-4-methoxy-3-methylpyrrolidine | C(C)(C)(C)OC(=O)NC1(CNCC1OC)C | C11H22N2O3
